US06489344B1
1 mmol of 2-{N-[4-(2,4-dichlorophenyl)-2-({2-[(5-nitro(2-pyridyl))amino]ethyl}amino)pyrimidin-5-yl]carbamoyl}benzoic acid was heated to 120° C. in acetic acid for four hours and then concentrated in vacuo to obtain 2-[4-(2,4-dichlorophenyl)-2-({2-[(5-nitro(2-pyridyl))amino]ethyl}amino)pyrimidin-5-yl]isoindoline-1,3-dione.

reactant | 2-{N-[4-(2,4-dichlorophenyl)-2-({2-[(5-nitro(2-pyridyl))amino]ethyl}amino)pyrimidin-5-yl]carbamoyl}benzoic acid | 1 mmol | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1NC(=O)C1=C(C(=O)O)C=CC=C1)NCCNC1=NC=C(C=C1)[N+](=O)[O-] | C25H19Cl2N7O5
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-[4-(2,4-dichlorophenyl)-2-({2-[(5-nitro(2-pyridyl))amino]ethyl}amino)pyrimidin-5-yl]isoindoline-1,3-dione | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1N1C(C2=CC=CC=C2C1=O)=O)NCCNC1=NC=C(C=C1)[N+](=O)[O-] | C25H17Cl2N7O4
